US04758578
N-(1-Methoxybutylidene)-3-(4-methoxyphenyl)-1,2,4-thiadiazole-5-sulfonamide
A mixture of 1.5 g of 3-(4-methoxyphenyl)-1,2,4-thiadiazole-5-sulfonamide and 4.1 g of trimethyl orthobutyrate was warmed at reflux for 0.5 hour. The mixture was cooled and triturated with hexane (3x) to give 1.84 g of solid. Recrystallization from cyclohexane/benzene (6:1) gave 1.63 g of fluffy solid. This was combined with 0.7 g sample from another identical small scale reaction. This combined material (2.33 g) had m.p. 159°-161°.

reactant | 3-(4-methoxyphenyl)-1,2,4-thiadiazole-5-sulfonamide | 1.5 g | COC1=CC=C(C=C1)C1=NSC(=N1)S(=O)(=O)N | C9H9N3O3S2
reactant | trimethyl orthobutyrate | 4.1 g | C(CCC)(OC)(OC)OC | C7H16O3
product | N-(1-Methoxybutylidene)-3-(4-methoxyphenyl)-1,2,4-thiadiazole-5-sulfonamide | 1.84 g | COC(CCC)=NS(=O)(=O)C1=NC(=NS1)C1=CC=C(C=C1)OC | C14H17N3O4S2
